US07776869B2
A 75 mL thick wall glass tube with a teflon screw cap was charged with 5-bromo-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine (0.995 g, 3.68 mmol), acetonitrile (9 mL), triethylamine (3.00 ml, 3.68 mmol), dichlorobistriphenylphosphine palladium(II) (0.259 g, 0.368 mmol), copper(I) iodide (0.0351 g, 0.184 mmol), and ethynyltrimethylsilane (0.362 g, 3.68 mmol). The tube was capped and heated to 90° C. for 2 hours. The reaction mixture was cooled to room temperature and concentrated. The residue was purified via column chromatography on silica gel (gradient elution with 0-100% ethyl acetate-hexane) to afford N-methyl-4-(thiophen-2-yl)-5-(2-(trimethylsilyl)ethynyl)pyrimidin-2-amine. MS m/z=288 [M+H]+. Calc'd for C14H17N3SSi: 287.

reactant | 5-bromo-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine | 3.68 mmol, 0.995 g | BrC=1C(=NC(=NC1)NC)C=1SC=CC1 | C9H8BrN3S
reactant | triethylamine | 3.68 mmol, 3.00 ml | C(C)N(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 3.68 mmol, 0.362 g | C(#C)[Si](C)(C)C | C5H10Si
catalyst | copper(I) iodide | 0.184 mmol, 0.0351 g | [Cu]I
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | N-methyl-4-(thiophen-2-yl)-5-(2-(trimethylsilyl)ethynyl)pyrimidin-2-amine | CNC1=NC=C(C(=N1)C=1SC=CC1)C#C[Si](C)(C)C | C14H17N3SSi
